
* cell DFF_V2_PN_COLUMN_SOURCE_ORDER_P2p4
* pin Q
* pin CLK
* pin D
* pin VDD
* pin VSS
.SUBCKT DFF_V2_PN_COLUMN_SOURCE_ORDER_P2p4 6 8 9 12 13
* net 6 Q
* net 8 CLK
* net 9 D
* net 12 VDD
* net 13 VSS
* device instance $1 r0 *1 25.2,7 PMOS_VTG
M$1 11 8 7 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $2 r0 *1 20.4,7 PMOS_VTG
M$2 10 1 4 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $3 r0 *1 22.8,7 PMOS_VTG
M$3 11 1 5 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $4 r0 *1 18,7 PMOS_VTG
M$4 10 8 2 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $5 r0 *1 1.2,7 PMOS_VTG
M$5 1 8 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $6 r0 *1 8.4,7 PMOS_VTG
M$6 4 3 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $7 r0 *1 3.6,7 PMOS_VTG
M$7 2 9 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $8 r0 *1 6,7 PMOS_VTG
M$8 3 10 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $9 r0 *1 13.2,7 PMOS_VTG
M$9 6 11 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $10 r0 *1 10.8,7 PMOS_VTG
M$10 5 3 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $11 r0 *1 15.6,7 PMOS_VTG
M$11 7 6 12 12 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $12 r0 *1 25.2,2 NMOS_VTG
M$12 7 1 11 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $13 r0 *1 22.8,2 NMOS_VTG
M$13 5 8 11 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $14 r0 *1 18,2 NMOS_VTG
M$14 2 1 10 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $15 r0 *1 15.6,2 NMOS_VTG
M$15 7 6 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $16 r0 *1 1.2,2 NMOS_VTG
M$16 1 8 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $17 r0 *1 3.6,2 NMOS_VTG
M$17 2 9 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $18 r0 *1 6,2 NMOS_VTG
M$18 3 10 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $19 r0 *1 8.4,2 NMOS_VTG
M$19 4 3 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $20 r0 *1 20.4,2 NMOS_VTG
M$20 4 8 10 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $21 r0 *1 13.2,2 NMOS_VTG
M$21 6 11 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
* device instance $22 r0 *1 10.8,2 NMOS_VTG
M$22 5 3 13 13 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U
+ PD=1.65U
.ENDS DFF_V2_PN_COLUMN_SOURCE_ORDER_P2p4
